US05574163
1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl Ethyl Sebacate
When following the procedure of Example 1, equimolar amounts of 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol and diethyl sebacate are reacted in heptane in the presence of tetraisopropyl orthotitanate, the title compound is prepared.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | diethyl sebacate | C(CCCCCCCCC(=O)OCC)(=O)OCC | C14H26O4
solvent | heptane | CCCCCCC | C7H16
catalyst | tetraisopropyl orthotitanate | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl Ethyl Sebacate | C(CCCCCCCCC(=O)OCC)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C21H39NO5
